### PR TITLE
Add new `matches` and `tactic` call strategies for generalized rewriting

### PR DESCRIPTION
**Pull request by mattam82**
This PR adds two new strategies to rewrite_strat:
- a `matches p` strategy that is the identity when the pattern matches the subterm and otherwise a failure
- a `tactic t` strategy that calls a tactic with a goal of the shape `?R lhs ?rhs` and the current environment. 
  If the tactic succeeds, the strategy succeeds with the given proof and rewrites the subterm to `?rhs`  (which can be instantiated), otherwise the tactic fails.
- A new `Ltac2.Rewrite.Strategies` `tactic` strategy that takes a closure `constr -> constr option -> rewrite_result`.
  The tactic is called with lhs term and optional relation constraint, if it returns a `rewrite_result`  (Identity, Fail or Success) we use that as the result of the strategy. This allows a somewhat finer control than the current Ltac1 interface and avoids creating evars at each call. We just raise if we get a TacitcFailure exception (I think we're not doing this the right way ATM)

This PR was co-designed with @MathisBD 
It was prompted by feedback from the Google ISE Formal team (@andres-erbsen) and discussions with @gmalecha and @kyoDralliam, among others.

Fixes / closes #????

- [x] Added / updated **test-suite**.

- [x] Added **changelog**.
- [x] Added / updated **documentation**.
  
  - [x] Documented any new / changed **user messages**.
  - [x] Updated **documented syntax** by running `make doc_gram_rsts`.

### CODE REVIEW

File: tactics/rewrite.ml [hunk 1]
```diff
@@ -1417,6 +1425,84 @@ module Strategies =
...
+    let ltac1_tactic_call (tac : unit Proofview.tactic) : 'a pure_strategy =
+      let strategy ({ env = env ; term1 = t ; ty1 = ty ; cstr = (prop, cstr) ; evars = evars } as state) =
+        let evars, rev, rhsev, goalty = make_tactic_goal env evars prop cstr ty t in
+        let entry, pv = Proofview.init (goalevars evars) [env, goalty] in
+        let res =
+          try Some (Proofview.apply ~name:(Id.of_string "rewrite") ~poly:PolyFlags.default env tac pv)
+          with Logic_monad.TacticFailure _ -> None in
+        match res with
+        | None -> state.state, Fail
+        | Some (res, pv', env', unsafe', infotree) ->
```
Comment (SkySkimmer) [inline tactics/rewrite.ml]: why `'`?

File: tactics/rewrite.ml [hunk 2]
```diff
@@ -1417,6 +1425,84 @@ module Strategies =
...
+           let sigma = Proofview.return pv' in
+           let res =
+             match Proofview.partial_proof entry pv' with
+             | [c] -> Some (extract_proof env sigma ty rhsev c)
+             | _ -> None
```
Comment (SkySkimmer) [inline tactics/rewrite.ml]: is this branch actually possible? seems like it should be assert false to me

File: tactics/rewrite.mli [hunk 3]
```diff
@@ -62,13 +71,13 @@ type rewrite_result =
 
 type strategy
 
-val strategy_of_ast : (Glob_term.glob_constr * constr delayed_open, Redexpr.red_expr delayed_open, Id.t) strategy_ast -> strategy
+val strategy_of_ast : ('a -> unit Proofview.tactic) ->  (Glob_term.glob_constr * constr delayed_open, Pattern.constr_pattern, Redexpr.red_expr delayed_open, Id.t, 'a) strategy_ast -> strategy
```
Comment (SkySkimmer) [inline tactics/rewrite.mli]: Why isn't this 
```suggestion
val strategy_of_ast : (Glob_term.glob_constr * constr delayed_open, Pattern.constr_pattern, Redexpr.red_expr delayed_open, Id.t, unit Proofview.tactic) strategy_ast -> strategy
```

File: tactics/rewrite.mli
Comment (SkySkimmer) [inline tactics/rewrite.mli]: what does "abstract" mean for a `val`?

File: tactics/rewrite.ml [hunk 4]
```diff
@@ -1417,6 +1425,84 @@ module Strategies =
...
+              let rinfo = { rew_car = ty; rew_from = t; rew_to = rhs;
+                            rew_prf = prf; rew_evars = (sigma, cstrevars evars) } in
+              state.state, Success rinfo
+      in
+      { strategy }
+
+    let tactic_call (tac : constr -> constr option -> pre_rewrite_result Proofview.tactic) : 'a pure_strategy =
+      let strategy ({ env = env ; term1 = t ; ty1 = ty ; cstr = (prop, cstr) ; evars = evars } as state) =
+        let entry, pv = Proofview.init (goalevars evars) [] in
+        let (res, pv', env', unsafe', infotree) =
```
Comment (SkySkimmer) [inline tactics/rewrite.ml]: why `'`?

File: test-suite/success/rewrite_strat.v [hunk 5]
```diff
@@ -66,3 +67,161 @@ my_rewrite_strat H.
 Undo.
 my_rewrite_strat2 H.
 Abort.
+Unset Printing All.
+Set Printing Notations.
```
Comment (SkySkimmer) [inline test-suite/success/rewrite_strat.v]: this isn't an output test so these Sets are useless

File: test-suite/success/rewrite_strat.v [hunk 6]
```diff
@@ -66,3 +67,161 @@ my_rewrite_strat H.
...
+
+Module StratPattern.
+  Lemma add_0_r x : x + 0 = x.
+Admitted.
```
Comment (SkySkimmer) [inline test-suite/success/rewrite_strat.v]: indent  doesn't match previous line

File: test-suite/success/rewrite_strat.v [hunk 7]
```diff
@@ -66,3 +67,161 @@ my_rewrite_strat H.
...
+Lemma heavy : foo (2000 + 2000) = foo (40 * 100).
+Proof.
+  (* Fail Timeout 1 cbn. *)
+  (* 1.5sec *)
+  Time rewrite_strat (bottomup (choice (pattern (_ + _)) (pattern (_ * _)); eval cbn)).
+  Undo.
+  (* ~3x faster: 0.05s *)
+  Time rewrite_strat (bottomup (choice (pattern (_ + _)) (pattern (_ * _)); eval vm_compute)).
+  Show Proof.
+  Show Existentials. (* This just refined the proof *) reflexivity.
```
Comment (SkySkimmer) [inline test-suite/success/rewrite_strat.v]: useless shows

File: test-suite/success/rewrite_strat.v [hunk 8]
```diff
@@ -66,3 +67,161 @@ my_rewrite_strat H.
...
+    | Nat.add _ _ => true
+    | _ => false
+    end.
+
+  Ltac2 reduce_fo_ind_value lhs rel :=
+    if is_closed_add lhs then
+      let ty := Constr.type lhs in
+      let rhs := Std.eval (Std.Red.cbv RedFlags.all) lhs in
+      (* msg ("reduced "); print (of_constr lhs); *)
+      Rewrite.Strategy.Success { rel := constr:(@eq $ty); rhs := rhs; prf := constr:(@eq_refl $ty $rhs) }
```
Comment (SkySkimmer) [inline test-suite/success/rewrite_strat.v]: prefer open_constr if you don't need constr
```suggestion
      Rewrite.Strategy.Success { rel := '(@eq $ty); rhs := rhs; prf := '(@eq_refl $ty $rhs) }
```

File: theories/Ltac2/Rewrite.v [hunk 9]
```diff
@@ -120,6 +120,12 @@ Module Strategy.
   Ltac2 @external fix_ : (t -> t) -> t :=
     "rocq-runtime.plugins.ltac2" "rewstrat_fix".
 
+  Ltac2 Type rewrite_success := { rel : constr; rhs : constr; prf : constr }.
+  Ltac2 Type rewrite_result := [ Success (rewrite_success) | Identity | Fail ].
+
+  Ltac2 @external tactic : (constr -> constr option -> rewrite_result) -> t :=
+    "rocq-runtime.plugins.ltac2" "rewstrat_tactic".
```
Comment (SkySkimmer) [inline theories/Ltac2/Rewrite.v:151]: Can we get anomalies by giving safe but unrelated terms in rewrite_success? If so then we may need to call this unsafe.

File: plugins/ltac/tacintern.ml [hunk 10]
```diff
@@ -735,6 +735,15 @@ let intern_strategy ist s =
     | StratHints (b, id) -> StratHints (b, id)
     | StratEval r -> StratEval (intern_red_expr ist r)
     | StratFold c -> StratFold (intern_constr ist c)
+    | StratPattern c ->
+       (* let ic, _ = intern_constr ist c in *)
+       (* let ids, pat = Patternops.pattern_of_glob_constr ist.genv ic in *)
+       let _, ip = intern_constr_pattern ist ~as_type:false ~ltacvars:Id.Set.empty c in
+       (* let it = Patternops.interp_pattern intern ist.genv in *)
```
Comment (SkySkimmer) [inline plugins/ltac/tacintern.ml]: delete comments?

File: plugins/ltac/tacinterp.ml [hunk 11]
```diff
@@ -1980,6 +1974,14 @@ let eval_tactic_ist ist t =
   Proofview.tclLIFT (db_initialize false) <*>
   eval_tactic_ist ist t
 
+let interp_strategy ist env sigma s =
+  let interp_redexpr r = fun env sigma -> interp_red_expr ist env sigma r in
+  let interp_constr c = (fst c, fun env sigma -> interp_open_constr ist env sigma c) in
+  let interp_pattern (_, p, up) = Patternops.interp_pattern env sigma Glob_ops.empty_lvar up in
+  let s = Rewrite.map_strategy interp_constr interp_pattern interp_redexpr (fun x -> x) (interp_tactic ist)
+            s in
```
Comment (SkySkimmer) [inline plugins/ltac/tacinterp.ml]: weird indent

File: tactics/rewrite.ml (hunk 2 above)
Comment (mattam82) [reply tactics/rewrite.ml]: Indeed

File: theories/Ltac2/Rewrite.v (hunk 9 above)
Comment (mattam82) [reply theories/Ltac2/Rewrite.v:151]: Nope

File: tactics/rewrite.mli
Comment (mattam82) [reply tactics/rewrite.mli]: It does not need to be exposed I think

File: tactics/rewrite.mli (hunk 3 above)
Comment (mattam82) [reply tactics/rewrite.mli]: Good point, fixed

File: tactics/rewrite.mli [hunk 12]
```diff
@@ -27,26 +27,35 @@ type binary_strategy =
...
 
+type pre_rewrite_result_info =
+  { rew_rel: constr; rew_to : constr; rew_prf : constr }
+
+type pre_rewrite_result =
+| Fail
+| Identity
+| Success of pre_rewrite_result_info
+
 type rewrite_result_info = {
```
Comment (MathisBD) [inline tactics/rewrite.mli]: Is there a reason why this is still exposed ? Same thing for rewrite_result. AFAICT no functions in the api use this, so exposing it is unnecessary.

Comment (MathisBD) [reply tactics/rewrite.mli]: Also if we remove it we can rename pre_rewrite_result into rewrite_result and rewrite_result into something like rewrite_result_internal.

File: tactics/rewrite.ml [hunk 13]
```diff
@@ -1417,6 +1425,83 @@ module Strategies =
...
+      in
+      { strategy }
+
+    let tactic_call (tac : constr -> constr option -> pre_rewrite_result Proofview.tactic) : 'a pure_strategy =
+      let strategy ({ env = env ; term1 = t ; ty1 = ty ; cstr = (prop, cstr) ; evars = evars } as state) =
+        let entry, pv = Proofview.init (goalevars evars) [] in
+        let (res, pv, _, _, _) =
+          try Proofview.apply ~name:(Id.of_string "rewrite")
+                ~poly:PolyFlags.default env (tac t cstr) pv
+          with Logic_monad.TacticFailure e -> raise e in
```
Comment (mattam82) [inline tactics/rewrite.ml]: @ppedrot Do you think that's the right thing to do with an exception here? It seems this allows to catch supposedly fatal exceptions, e.g.:
```


  Ltac2 is_closed_add t :=
    match! t with
    | Nat.add _ _ => true
    | _ => Control.throw Not_found
    end.

  Ltac2 reduce_fo_ind_value lhs rel :=
    if is_closed_add lhs then
      let ty := Constr.type lhs in
      let rhs := Std.eval (Std.Red.cbv RedFlags.all) lhs in
      (* msg ("reduced "); print (of_constr lhs); *)
      Rewrite.Strategy.Success { rel := '(@eq $ty); rhs := rhs; prf := '(@eq_refl $ty $rhs) }
    else Fail.

  (* Heavy computation if unfolded at any point during unification *)
  Definition foo (n : nat) :=
    Nat.pow 2 n.

  Ltac2 reduce_fo_ind cl :=
    rewrite_strat (fix_ (fun s => choice (tactic reduce_fo_ind_value) (subterm s))) cl.

  Lemma heavy : foo (200000 + 200000) = foo 400000.
  Proof.
    Notations.try (reduce_fo_ind None).
  (* Succeeds *)
```

File: tactics/rewrite.mli (hunk 12 above)
Comment (mattam82) [reply tactics/rewrite.mli]: Yep, I'll rename now

Comment (mattam82) [reply tactics/rewrite.mli]: Done

File: doc/sphinx/addendum/generalized-rewriting.rst [hunk 14]
```diff
@@ -1030,6 +1030,8 @@ are applied using the :tacn:`rewrite_strat` tactic.
    | terms {* @one_term }
    | eval @red_expr
    | fold @one_term
+   | pattern @one_term
+   | tactic @ltac_expr
```
Comment (jfehrle) [inline doc/sphinx/addendum/generalized-rewriting.rst]: How about documenting what the new syntax does (at least a sentence or two)?  Lack of documentation is a barrier for users.  Even the PR description has more detail.

Comment (mattam82) [reply doc/sphinx/addendum/generalized-rewriting.rst]: I'll get to it sure

File: theories/Ltac2/Rewrite.v [hunk 15]
```diff
@@ -120,6 +120,12 @@ Module Strategy.
   Ltac2 @external fix_ : (t -> t) -> t :=
     "rocq-runtime.plugins.ltac2" "rewstrat_fix".
 
+  Ltac2 Type rewrite_success := { rel : constr; rhs : constr; prf : constr }.
+  Ltac2 Type rewrite_result := [ Success (rewrite_success) | Identity | Fail ].
+
+  Ltac2 @external tactic : (constr -> constr -> constr option -> rewrite_result) -> t :=
```
Comment (SkySkimmer) [inline theories/Ltac2/Rewrite.v:150]: in what env do the constrs live? Can we have a test with nontrivial env?

**Comment by MathisBD** [comment]
Fyi I'll do a follow-up PR to improve the documentation of tactics/rewrite.mli.

File: theories/Ltac2/Rewrite.v (hunk 15 above)
Comment (mattam82) [reply theories/Ltac2/Rewrite.v:150]: The env is the one of the subterm being scrutinized

Comment (mattam82) [reply theories/Ltac2/Rewrite.v:150]: I added a test using that (by rewriting under a binder)

File: test-suite/success/rewrite_strat.v [hunk 16]
```diff
@@ -66,3 +67,206 @@ my_rewrite_strat H.
...
+        fl.(used) := true;
+        Strategy.Success { rel := '(@eq nat); rhs := '(Nat.add $r $l); prf := '(add_comm $l $r) }
+    | _ => Fail
+    end.
+
+  Ltac2 use_lemma_once () :=
+    let flag := { used := false} in
+    fun carrier lhs rel => rw_lemma flag lhs.
+
+  Ltac2 using_env carrier lhs rel :=
```
Comment (SkySkimmer) [inline test-suite/success/rewrite_strat.v]: seems unused?

Comment (mattam82) [reply test-suite/success/rewrite_strat.v]: Indeed

**Comment by mattam82** [comment]
@coqbot run full ci

**Comment by mattam82** [comment]
@coqbot run full ci

File: theories/Ltac2/Rewrite.v [hunk 17]
```diff
@@ -120,6 +120,23 @@ Module Strategy.
...
+  Ltac2 @external pattern : pattern -> t :=
+    "rocq-runtime.plugins.ltac2" "rewstrat_pattern".
+
+  (** The rewrite success datatype, where [prf] should be of type [rel lhs rhs] *)
+  Ltac2 Type rewrite_success := { rel : constr; rhs : constr; prf : constr }.
+
+  (** A rewrite result can be any of a success, and identity step (no progress), or a failure *)
+  Ltac2 Type rewrite_result := [ Success (rewrite_success) | Identity | Fail ].
+
+  (** The [tactic f] strategy applies [f] to the carrier type, and current subterm [t] being rewriten,
```
Comment (SkySkimmer) [inline theories/Ltac2/Rewrite.v]:
```suggestion
  (** The [tactic f] strategy applies [f] to the carrier type, and current subterm [t] being rewritten,
```

File: theories/Ltac2/Rewrite.v [hunk 18]
```diff
@@ -120,6 +120,23 @@ Module Strategy.
...
+      with an optional relation constraint. The tactic is applied to no goals, it should hence
+      stay unfocused. The tactic should return a [rewrite_result] indicating success s, failure or no progress.
```
Comment (SkySkimmer) [inline theories/Ltac2/Rewrite.v]:
```suggestion
      stay unfocused. The tactic should return a [rewrite_result] indicating success, failure or no progress.
```

Comment (SkySkimmer) [inline theories/Ltac2/Rewrite.v]: I'm not sure if using tclENV to pass an arbitrary named context is a good idea.
@ppedrot opinions?

**Comment by SkySkimmer** [comment]
>a `pattern p` strategy that is the identity when the pattern matches the subterm and otherwise a failure

I wonder if the name should be changed to make it clearer that it's not the same as `eval pattern`.

File: test-suite/success/rewrite_strat.v [hunk 19]
```diff
@@ -66,3 +67,207 @@ my_rewrite_strat H.
...
+    reduce_fo_ind.
+    match goal with
+    | |- forall x, S (S x) = S (S x) => idtac
+    end.
+    trivial.
+  Qed.
+
+End StratTactic.
+
+From Ltac2 Require Import Ltac2 Rewrite.
```
Comment (SkySkimmer) [inline test-suite/success/rewrite_strat.v]: maybe the ltac2 tests should be moved to ltac2/rewrite_strat?

**Comment by TheoWinterhalter** [comment]
> > a `pattern p` strategy that is the identity when the pattern matches the subterm and otherwise a failure
> 
> I wonder if the name should be changed to make it clearer that it's not the same as `eval pattern`.

Maybe something like `matches_pat p` or `matches p`?

File: theories/Ltac2/Rewrite.v (hunk 18 above)
Comment (SkySkimmer) [reply theories/Ltac2/Rewrite.v]: (the tclENV contains the hyps of the goal where rewrite_strat was called, plus a rel_context)

Comment (mattam82) [reply theories/Ltac2/Rewrite.v]: The code was indeed wrong to send a rel_context to the tactics, now I'm moving the `rel_context` to the `named_context` and translating back the proof terms produced by the tactic.

**Comment by mattam82** [comment]
> > > a `pattern p` strategy that is the identity when the pattern matches the subterm and otherwise a failure
> > 
> > 
> > I wonder if the name should be changed to make it clearer that it's not the same as `eval pattern`.
> 
> Maybe something like `matches_pat p` or `matches p`?

I like `match p` even better

File: test-suite/success/rewrite_strat.v (hunk 19 above)
Comment (mattam82) [reply test-suite/success/rewrite_strat.v]: Ok

**Comment by mattam82** [comment]
But `match` is a keyword so no. `matches` it is

**Comment by TheoWinterhalter** [comment]
Yes, that's why I wanted to avoid `match`.

**Comment by mattam82** [comment]
@coqbot run full ci

File: doc/sphinx/addendum/generalized-rewriting.rst [hunk 20]
```diff
@@ -1009,6 +1009,17 @@ on the programmable rewriting strategies with generic traversals by Visser et al
...
+The :tacn:`rewrite_strat` tactic is more general than :tacn:`setoid_rewrite` as
+it can also be used to apply arbitrary :ref:`conversion strategies <applyingconversionrules>`
+in terms, that need not be justified by proof terms and congruence lemmas, as
+all terms are congruent for conversion in Rocq's theory. For example,
+the `eval` and `fold` strategies do not produce proofs: they can be used to apply
+:ref:`conversions <Conversion-rules>` at selected subterms. The :n:`tactic` strategy
+further allows arbitrary customization of strategies through :ref:`Ltac1 <ltac>` or :ref:`Ltac2 <ltac2>` tactics.
+
+The following describes the :ref:`Ltac1 <ltac>` version of the strategies. An :ref:`Ltac2 <ltac2>` version
+with including the same primitives is available in the :g:`Ltac2.Rewrite` module.
```
Comment (jfehrle) [inline doc/sphinx/addendum/generalized-rewriting.rst]:
```suggestion
with the same primitives is available in the :g:`Ltac2.Rewrite` module.
```

File: doc/changelog/04-tactics/21521-strat-pattern-ltac-Added.rst [hunk 21]
```diff
@@ -0,0 +1,5 @@
+- **Added:**
+  Add :n:`matches` and :n:`tactic` :ref:`strategies <strategies4rewriting>`
+  to :tacn:`rewrite_strat` in :ref:`Ltac1 <ltac>` and :ref:`Ltac2 <ltac2>`
```
Comment (jfehrle) [inline doc/changelog/04-tactics/21521-strat-pattern-ltac-Added.rst]:
```suggestion
  to :tacn:`rewrite_strat` for :ref:`Ltac1 <ltac>` and :ref:`Ltac2 <ltac2>` tactics
```

File: doc/sphinx/addendum/generalized-rewriting.rst [hunk 22]
```diff
@@ -9,9 +9,9 @@ This chapter presents the extension of several equality related
 tactics to work over user-defined structures (called setoids) that are
 equipped with ad-hoc equivalence relations meant to behave as
 equalities. Actually, the tactics have also been generalized to
-relations weaker than equivalences (e.g. rewriting systems). The
-toolbox also extends the automatic rewriting capabilities of the
-system, allowing the specification of custom strategies for rewriting.
+relations weaker than equivalences (e.g. rewriting systems).
+The toolbox also extends the automatic rewriting capabilities of the
+system, allowing the specification of :ref:`custom strategies <strategies4rewriting>` for rewriting *or* applying :ref:`conversions <applyingconversionrules>` (in that case, requiring no proof terms).
```
Comment (jfehrle) [inline doc/sphinx/addendum/generalized-rewriting.rst]:
```suggestion
system, allowing the specification of :ref:`custom strategies <strategies4rewriting>`
for rewriting *or* applying :ref:`conversions <applyingconversionrules>` (in that case,
requiring no proof terms).
```

File: doc/sphinx/addendum/generalized-rewriting.rst [hunk 23]
```diff
@@ -1053,6 +1066,12 @@ are applied using the :tacn:`rewrite_strat` tactic.
 :n:`<- @one_term`
    lemma, right to left
 
+:n:`terms {* @one_term }`
+   rewrite with any of the lemmas
+
+:n:`hints @ident`
+   rewrite with any of the rewrite hints from the given database
```
Comment (jfehrle) [inline doc/sphinx/addendum/generalized-rewriting.rst]: Only rewrite hintdbs, such as used by autorewrite or a regular hintdb?  (IMO we don't cover the distinction too clearly in the doc.)

File: doc/sphinx/addendum/generalized-rewriting.rst [hunk 24]
```diff
@@ -1090,33 +1109,63 @@ are applied using the :tacn:`rewrite_strat` tactic.
    rewriting :n:`(a && b) && c` with `andbC` gives :n:`c && (a && b)`.
 
 :n:`bottomup @rewstrategy1`
-   bottom-up
+   bottom-up: reaches leaves of the term before applying the strategy, recursively
```
Comment (jfehrle) [inline doc/sphinx/addendum/generalized-rewriting.rst]:
```suggestion
   bottom-up: recursively processes subterms of the term before applying the strategy
```

If correct.

File: doc/sphinx/addendum/generalized-rewriting.rst [hunk 25]
```diff
@@ -1090,33 +1109,63 @@ are applied using the :tacn:`rewrite_strat` tactic.
...
+   top-down: applies the strategy or goes into subterms, recursively
 
 :n:`eval @red_expr`
-   apply reduction
+   apply a reduction, see :ref:`conversions <applyingconversionrules>`.
+   This is a conversion rule.
 
 :n:`fold @term`
-   unify
+   unifies with the given term and in case of succes replace by the given term.
```
Comment (jfehrle) [inline doc/sphinx/addendum/generalized-rewriting.rst]:
```suggestion
   if the current term unifies with :n:`@term`, replace it with :n:`@term`.
```

"given term" suggests the term after fold, which doesn't seem right.

File: doc/sphinx/addendum/generalized-rewriting.rst [hunk 26]
```diff
@@ -1090,33 +1109,63 @@ are applied using the :tacn:`rewrite_strat` tactic.
...
+   This is a conversion rule.
 
 :n:`fix @ident := @rewstrategy1`
    fixpoint operator, where :math:`\texttt{fix }f := v` evaluates to
    :math:`\subst{v}{f}{(\texttt{fix }f := v)}`
 
 :n:`( @rewstrategy )`
-   to be documented
+   parenthezises for disambiguation, applies the inner strategy
```
Comment (jfehrle) [inline doc/sphinx/addendum/generalized-rewriting.rst]:
```suggestion
   parenthesizes for disambiguation, applies :n:`@rewstrategy`
```

File: doc/sphinx/addendum/generalized-rewriting.rst [hunk 27]
```diff
@@ -1090,33 +1109,63 @@ are applied using the :tacn:`rewrite_strat` tactic.
...
+   the given pattern, and :n:`fail` otherwise.
+
+:n:`tactic @ltac_expr`
+   The tactic is applied to a goal of shape :n:`?R lhs ?rhs` in the environment
+   of the left-hand-side term to be rewritten. It can instantiate the relation
+   :n:`?R` and right-hand-side :n:`?rhs` with terms of its choice.
+   The goal should then be solved for the strategy to succeed. This inserts
+   the proof term as a witness of a rewriting from :n:`lhs` to :n:`?rhs` using relation :n:`?R`.
+   The following strategy starts from the new term :n:`?rhs`. If the tactic fails, the
+   strategy fails.
```
Comment (jfehrle) [inline doc/sphinx/addendum/generalized-rewriting.rst]: How about an example?  I don't understand the explanation well enough to use it.
"This inserts the proof term" - where/how is this inserted?
"a goal ... in the environment of the left-hand-side" - Very unclear what is meant?  Looking at hypotheses?

Is there any need to handle :n:`?R ?lhs rhs`, eg for a noncommutative relation?

File: doc/sphinx/addendum/generalized-rewriting.rst [hunk 28]
```diff
@@ -1090,33 +1109,63 @@ are applied using the :tacn:`rewrite_strat` tactic.
...
 :n:`old_hints @ident`
    to be documented
 
+:n:`matches @one_term`
+   This strategy is the identity (:n:`id`) if the current term matches
+   the given pattern, and :n:`fail` otherwise.
+
+:n:`tactic @ltac_expr`
+   The tactic is applied to a goal of shape :n:`?R lhs ?rhs` in the environment
+   of the left-hand-side term to be rewritten. It can instantiate the relation
```
Comment (jfehrle) [inline doc/sphinx/addendum/generalized-rewriting.rst]:
```suggestion
   of `lhs`. It can instantiate the relation
```

If "left-hand-side term" just means 'lhs`.

File: doc/sphinx/addendum/generalized-rewriting.rst [hunk 29]
```diff
@@ -1090,33 +1109,63 @@ are applied using the :tacn:`rewrite_strat` tactic.
...
+   :n:`?R` and right-hand-side :n:`?rhs` with terms of its choice.
+   The goal should then be solved for the strategy to succeed. This inserts
```
Comment (jfehrle) [inline doc/sphinx/addendum/generalized-rewriting.rst]:
```suggestion
   The tactic must solve the goal to succeed. This inserts
```

Guessing here--what has to solve the goal-the Ltac tactics or ???

File: doc/sphinx/addendum/generalized-rewriting.rst [hunk 30]
```diff
@@ -1090,33 +1109,63 @@ are applied using the :tacn:`rewrite_strat` tactic.
...
+   + a :n:`Fail` constructor indicating the strategy failed, i.e. behaving like :n:`fail`.
+
+   + an :n:`Identity` constructor indicating the strategy succeeded with no rewrite, i.e.,
+     behaving like :n:`id`.
+
+   A failure of the tactic is raised to the toplevel :tacn:`rewrite_strat` call.
+   In both cases, if the successful proof :n:`prf` is syntactically of the shape
+   :n:`core.eq.refl ?carrier ?t`, the rewrite is turned into a *conversion*, which
+   is silent in proof and does not require :n:`Proper` proofs as conversion is
+   applicable anywhere in a term.
```
Comment (jfehrle) [inline doc/sphinx/addendum/generalized-rewriting.rst]:
```suggestion
   :n:`core.eq.refl ?carrier ?t`, the rewrite is turned into a *conversion*, which
   is not included in the proof and does not require :n:`Proper` proofs as conversion is
   applicable anywhere in a term.
```

Why the ``` :n:`Proper` ```?  How do you define "proper"?

File: doc/sphinx/addendum/generalized-rewriting.rst [hunk 31]
```diff
@@ -1090,33 +1109,63 @@ are applied using the :tacn:`rewrite_strat` tactic.
...
+   the proof term as a witness of a rewriting from :n:`lhs` to :n:`?rhs` using relation :n:`?R`.
+   The following strategy starts from the new term :n:`?rhs`. If the tactic fails, the
+   strategy fails.
+
+   The :ref:`Ltac2 <ltac2>` variant has a different interface. :n:`Ltac2.Strategy.tactic` takes
+   a tactic of type :n:`constr -> constr -> constr option -> rewrite_result` parameterized by a
+   carrier type, left-hand side :n:`lhs` (of type the carrier) to be rewritten and optionally
+   a specified relation on the carrier type and should return a :n:`Ltac2.Strategy.rewrite_result`.
+   The tactic is run in the environment of the :n:`lhs` term but applied to *no* goals,
+   it should hence stay unfocused. The result can be:
```
Comment (jfehrle) [inline doc/sphinx/addendum/generalized-rewriting.rst]:
```suggestion
   The :ref:`Ltac2 <ltac2>` variant has a different interface. :n:`Ltac2.Strategy.tactic` takes
   a tactic of type :n:`constr -> constr -> constr option -> rewrite_result` parameterized by a
   carrier type, the left-hand side :n:`lhs` (of the carrier type) to be rewritten and an optional
   relation on the carrier type.  It returns an :n:`Ltac2.Strategy.rewrite_result`.
   The tactic is run in the environment of the :n:`lhs` term but is not applied to any goals,
   so it should stay unfocused. The result can be:
```

The `constr option` can be None but the parameter must be specified.
Would be good to add "carrier" to the glossary (defined at line 58).

File: doc/sphinx/addendum/generalized-rewriting.rst [hunk 32]
```diff
@@ -1009,6 +1009,17 @@ on the programmable rewriting strategies with generic traversals by Visser et al
...
 
+The :tacn:`rewrite_strat` tactic is more general than :tacn:`setoid_rewrite` as
+it can also be used to apply arbitrary :ref:`conversion strategies <applyingconversionrules>`
+in terms, that need not be justified by proof terms and congruence lemmas, as
+all terms are congruent for conversion in Rocq's theory. For example,
+the `eval` and `fold` strategies do not produce proofs: they can be used to apply
+:ref:`conversions <Conversion-rules>` at selected subterms. The :n:`tactic` strategy
+further allows arbitrary customization of strategies through :ref:`Ltac1 <ltac>` or :ref:`Ltac2 <ltac2>` tactics.
+
+The following describes the :ref:`Ltac1 <ltac>` version of the strategies. An :ref:`Ltac2 <ltac2>` version
```
Comment (jfehrle) [inline doc/sphinx/addendum/generalized-rewriting.rst:1022]:
```suggestion
The following describes how to call :ref:`Ltac1 <ltac>` tactics. The :ref:`Ltac2 <ltac2>` interface
```

**Review by jfehrle — COMMENTED** [review]
Wording suggestions.  Hopefully useful.

**Comment by mattam82** [comment]
@coqbot run full ci

File: doc/sphinx/addendum/generalized-rewriting.rst (hunk 23 above)
Comment (mattam82) [inline doc/sphinx/addendum/generalized-rewriting.rst]:
```suggestion
   rewrite with any of the rewrite hints from the given rewrite hint database
```

Comment (mattam82) [reply doc/sphinx/addendum/generalized-rewriting.rst]: Indeed, only from rewrite hint databases

File: doc/sphinx/addendum/generalized-rewriting.rst [hunk 33]
```diff
@@ -1090,33 +1111,63 @@ are applied using the :tacn:`rewrite_strat` tactic.
...
+
+   + a :n:`Fail` constructor indicating the strategy failed, i.e. behaving like :n:`fail`.
+
+   + an :n:`Identity` constructor indicating the strategy succeeded with no rewrite, i.e.,
+     behaving like :n:`id`.
+
+   A failure of the tactic is raised to the toplevel :tacn:`rewrite_strat` call.
+   In both cases, if the successful proof :n:`prf` is syntactically of the shape
+   :n:`core.eq.refl ?carrier ?t`, the rewrite is turned into a *conversion*, which
+   is silent in proof and does not require :n:`Proper` proofs as conversion is
```
Comment (mattam82) [inline doc/sphinx/addendum/generalized-rewriting.rst]:
```suggestion
   just corresponds to a type cast in the proof term and does not require inferring congruence proofs
   as conversion is
```

File: doc/sphinx/addendum/generalized-rewriting.rst [hunk 34]
```diff
@@ -1090,33 +1111,64 @@ are applied using the :tacn:`rewrite_strat` tactic.
...
+
+   + an :n:`Identity` constructor indicating the strategy succeeded with no rewrite, i.e.,
+     behaving like :n:`id`.
+
+   A failure of the tactic is raised to the toplevel :tacn:`rewrite_strat` call.
+   In both cases, if the successful proof :n:`prf` is syntactically of the shape
+   :n:`core.eq.refl ?carrier ?t`, the rewrite is turned into a *conversion*, which
+   just corresponds to a type cast in the proof term and does not require inferring congruence proofs
+   as conversion is
+   applicable anywhere in a term.
```
Comment (mattam82) [inline doc/sphinx/addendum/generalized-rewriting.rst]:
```suggestion
   just corresponds to a type cast in the proof term and does not require inferring 
   congruence proofs as conversion is applicable anywhere in a term.
```

**Comment by mattam82** [comment]
@coqbot run full ci

**Comment by mattam82** [comment]
@coqbot run full ci

**Comment by mattam82** [comment]
@coqbot run full ci

File: doc/sphinx/addendum/generalized-rewriting.rst [hunk 35]
```diff
@@ -1090,33 +1111,63 @@ are applied using the :tacn:`rewrite_strat` tactic.
...
+   parenthesizes for disambiguation, applies :n:`@rewstrategy`
 
 :n:`old_hints @ident`
    to be documented
 
+:n:`matches @one_term`
+   This strategy is the identity (:n:`id`) if the current term matches
+   the given pattern, and :n:`fail` otherwise.
+
+:n:`tactic @ltac_expr`
```
Comment (jfehrle) [inline doc/sphinx/addendum/generalized-rewriting.rst:1141]: Is "tactic" the best name?  This syntax only works with very specific types of ltac tactics, not with tactics in general.

**Comment by SkySkimmer** [comment]
Why are you running so many benches? This is all new code, it would be shocking if existing code had perf changes.

File: doc/sphinx/addendum/generalized-rewriting.rst (hunk 35 above)
Comment (mattam82) [reply doc/sphinx/addendum/generalized-rewriting.rst:1141]: I don't have a better idea

**Comment by mattam82** [comment]
I just wanted to run one but failed :/

**Comment by mattam82** [comment]
I think this is ready now, @SkySkimmer ?

**Comment by SkySkimmer** [comment]
Offline discussion (me, @ppedrot, @mattam82): there is disagreement about using tclENV to handle the context for the tactic callback (for ltac2).
Possible results:
- accept to use tclENV, update doc of other tclENV users such that they don't assume it's always the global (section) env (typically Control.hyps)
- create an evar of type `unit` in the desired context to have a goal to run in
- upstream https://github.com/SkySkimmer/rocq-ltac2-judgement/ or similar API to manipulate contexts explicitly (external becomes `tactic : (context -> constr -> rewrite_result) -> strategy` or some similar thing)
- ??

**Comment by andres-erbsen** [comment]
Thank you for working on this feature! It looks to be going in a direction that we'd find quite useful. :tada: 

In tests, `is_closed_add` is just a stand-in, right? Currently it'd accept `Nat.add x x` where `x` is an axiom, proof-context-variable, or sealed.

I am not sure I understand the question about contexts. However, if there is a question about what should be in the context when rewriting under binders with a tactic-implemented strategy, I would like to chime in. First, the binders under which the rewrite have to be in the context for tactic execution (and I think this is not in question as the proof the tactic returns has to be well typed). Further, I would like to be able to use something like `map_ext_in` as a `Proper` instance, adding additional facts about the bound variable to context when going under binders. For example, I would like to rewrite in `fold_right Z.add 0 (map (fun x => Z.abs x) (Z.seq 0 n))` using `0 <= x -> Z.abs x = x` and `(forall a, In a l -> f a = g a) -> map f l = map g l` by passing in a strategy tactic that finds the `In x (Z.seq 0 n)` hypothesis in the context and uses that to prove `0 <= x`. And it would be nice if I could call lia in there. If I read the last question correctly, I think trying to satisfy this wish points towards having a goal?

**Comment by mattam82** [comment]
@SkySkimmer and @ppedrot don't like that this is an unfocused tactic relying on `Control.hyps ()` being "misused" to return the goal + term context we apply the tactic at. The compromise is to generate an evar/goal for the call to the tactic, with the right environment and of type `unit/core.unit.type` which should stay *undefined* otherwise it is an error. We just define it as `core.unit.tt` in the implementation to clean it up. This should not incur any performance penalty.

**Comment by mattam82** [comment]
I'm just seeing the messages now, but I've implemented the solution where we have a goal. The interaction you describer @andres-erbsen seems a bit more elaborate still, I'll have to think about it some more.

File: plugins/ltac2/tac2stdlib.ml [hunk 36]
```diff
@@ -541,6 +557,42 @@ let () =
...
+      let reln = Option.map (Evarutil.csubst_subst sigma subst) rel in
+      let sigma, unit = Evd.fresh_global env sigma (Rocqlib.lib_ref "core.unit.type") in
+      let sigma, unitval = Evd.fresh_global env sigma (Rocqlib.lib_ref "core.unit.tt") in
+      let sigma, goalev = Evd.new_pure_evar ~relevance:EConstr.ERelevance.relevant (ext_named_context_val ectx) sigma unit in
+      Unsafe.tclEVARS sigma <*>
+      Unsafe.tclNEWGOALS [with_empty_state goalev] <*>
+        f carriern lhsn reln >>= fun res ->
+      tclEVARMAP >>= fun sigma ->
+      if Evd.is_defined sigma goalev then
+        Tacticals.tclZEROMSG Pp.(str"The tactic called by a strategy should not solve the goal, it is provided as read-only information")
```
Comment (SkySkimmer) [inline plugins/ltac2/tac2stdlib.ml]:
```suggestion
        Tacticals.tclZEROMSG Pp.(str"The tactic called by Ltac2.Rewrite.Strategy.tactic should not solve the goal, it is provided as read-only information.")
```

File: plugins/ltac2/tac2stdlib.ml [hunk 37]
```diff
@@ -541,6 +557,42 @@ let () =
...
+let () =
+  define "rewstrat_matches"
+    (pattern @-> ret rewstrategy)
+    Rewrite.Strategies.matches
+
+let wrap_tactic_call f =
+  let open Evarutil in
+  let open Proofview in
+  let open Proofview.Notations in
+  let wrapf ~env ~carrier ~lhs ~rel =
```
Comment (SkySkimmer) [inline plugins/ltac2/tac2stdlib.ml]: this is probably a case where it's worth moving this to tac2tactics (the code in tac2stdlib should mostly be converting between ltac2 and ocaml types IIUC)

File: plugins/ltac2/tac2stdlib.ml [hunk 38]
```diff
@@ -541,6 +557,42 @@ let () =
...
+    Proofview.tclBIND Proofview.tclEVARMAP @@ fun sigma ->
```
Comment (SkySkimmer) [inline plugins/ltac2/tac2stdlib.ml]:
```suggestion
    Proofview.tclEVARMAP >>= fun sigma ->
```

File: plugins/ltac2/tac2stdlib.ml [hunk 39]
```diff
@@ -541,6 +557,42 @@ let () =
...
+      let subst = ext_csubst ectx in
+      let carriern = Evarutil.csubst_subst sigma subst carrier in
+      let lhsn = Evarutil.csubst_subst sigma subst lhs in
+      let reln = Option.map (Evarutil.csubst_subst sigma subst) rel in
+      let sigma, unit = Evd.fresh_global env sigma (Rocqlib.lib_ref "core.unit.type") in
+      let sigma, unitval = Evd.fresh_global env sigma (Rocqlib.lib_ref "core.unit.tt") in
+      let sigma, goalev = Evd.new_pure_evar ~relevance:EConstr.ERelevance.relevant (ext_named_context_val ectx) sigma unit in
+      Unsafe.tclEVARS sigma <*>
+      Unsafe.tclNEWGOALS [with_empty_state goalev] <*>
+        f carriern lhsn reln >>= fun res ->
```
Comment (SkySkimmer) [inline plugins/ltac2/tac2stdlib.ml]: weird indent

File: plugins/ltac2/tac2stdlib.ml (hunk 37 above)
Comment (mattam82) [reply plugins/ltac2/tac2stdlib.ml]: Ok

File: theories/Ltac2/Rewrite.v [hunk 40]
```diff
@@ -120,6 +120,23 @@ Module Strategy.
...
```
Comment (mattam82) [inline theories/Ltac2/Rewrite.v]:
```suggestion
      with an optional relation constraint. The tactic is applied to a single goal of type [unit] whose context corresponds to the context of the term to rewrite (i.e. the context of the goal at the start of the [rewrite_strat] call extended with the binders that were traverse to attain this subterm. The tactic should return a [rewrite_result] indicating success s, failure or no progress and should *not* solve the goal. Solving the goal is an error that aborts the [rewrite_strat] call.
```

File: doc/sphinx/addendum/generalized-rewriting.rst [hunk 41]
```diff
@@ -1090,33 +1111,63 @@ are applied using the :tacn:`rewrite_strat` tactic.
...
+   the proof term as a witness of a rewriting from :n:`lhs` to :n:`?rhs` using relation :n:`?R`.
+   The following strategy starts from the new term :n:`?rhs`. If the tactic fails, the
+   strategy fails.
+
+   The :ref:`Ltac2 <ltac2>` variant has a different interface. :n:`Ltac2.Strategy.tactic` takes
+   a tactic of type :n:`constr -> constr -> constr option -> rewrite_result` parameterized by a
+   carrier type, the left-hand side :n:`lhs` (of the carrier type) to be rewritten and an optional
+   relation on the carrier type.  It returns an :n:`Ltac2.Strategy.rewrite_result`.
+   The tactic is run in the environment of the :n:`lhs` term but is not applied to any goals,
+   so it should stay unfocused. The result can be:
```
Comment (mattam82) [inline doc/sphinx/addendum/generalized-rewriting.rst]:
```suggestion
   The tactic is run on a single goal of type :n:`unit` and context the environment of the :n:`lhs` term. It should not solve the goal, but rather simply return a :n:`rewrite_result`. The result can be:
```

File: theories/Ltac2/Rewrite.v [hunk 42]
```diff
@@ -120,6 +120,22 @@ Module Strategy.
...
+    "rocq-runtime.plugins.ltac2" "rewstrat_matches".
+
+  (** The rewrite success datatype, where [prf] should be of type [rel lhs rhs] *)
+  Ltac2 Type rewrite_success := { rel : constr; rhs : constr; prf : constr }.
+
+  (** A rewrite result can be any of a success, and identity step (no progress), or a failure *)
+  Ltac2 Type rewrite_result := [ Success (rewrite_success) | Identity | Fail ].
+
+  (** The [tactic f] strategy applies [f] to the carrier type, and current subterm [t] being rewriten,
+      with an optional relation constraint. The tactic is applied to a single goal of type [unit] whose context corresponds to the context of the term to rewrite (i.e. the context of the goal at the start of the [rewrite_strat] call extended with the binders that were traverse to attain this subterm. The tactic should return a [rewrite_result] indicating success s, failure or no progress and should *not* solve the goal. Solving the goal is an error that aborts the [rewrite_strat] call.
```
Comment (SkySkimmer) [inline theories/Ltac2/Rewrite.v]: we don't go for long line comments here, please break the line

File: plugins/ltac2/tac2stdlib.ml (hunk 37 above)
Comment (mattam82) [reply plugins/ltac2/tac2stdlib.ml]: Done

File: theories/Ltac2/Rewrite.v (hunk 42 above)
Comment (mattam82) [reply theories/Ltac2/Rewrite.v]: Sorry, that was after editing on github. Fixed, and improved the doc too.

**Comment by mattam82** [comment]
@coqbot run full ci

**Comment by mattam82** [comment]
This is ready to go now

**Comment by SkySkimmer** [comment]
@coqbot merge now

**Review by SkySkimmer — APPROVED** [review]

**Comment by SkySkimmer** [comment]
@coqbot merge now
